US05824802
6. Preparation of 3-Dimethylamino-2-methyl-4-methylsulfonylbenzoic Acid
Sodium borohydride (1.4 g, 36 mmol) was carefully added to a suspension of 1.53 g (6.30 mmol) of 3-methylamino-2-methyl-4-methylsulfonylbenzoic acid and 1.8 g (60 mmol) of paraformaldehyde in 75 mL of dry tetrahydrofuran under a nitrogen atmosphere. A 30 mL aliquot of trifluoroacetic acid was then added dropwise over 1 hour. Gas evolution was vigorous at first, but then subsided as the grey-white suspension was allowed to stir at room temperature. After 8 hours, the reaction was found to be complete by high pressure liquid chromatographic analysis (HPLC). The mixture was poured into 90 mL of a 25 percent aqueous sodium hydroxide solution containing ice, diluted with water and washed with ethyl acetate. The aqueous solution was then acidified with concentrated aqueous hydrochloric acid and the resulting mixture was extracted with ethyl acetate. The organic extract was mixed with dilute aqueous sodium bicarbonate solution and the aqueous phase was collected, acidified with 1N aqueous hydrochloric acid, and extracted with ethyl acetate. The organic extract obtained was dried over sodium sulfate and concentrated by evaporation under reduced pressure. The resulting residue was purified by flash column chromatography on silica gel, eluting with a 1:1 mixture of ethyl acetate and petroleum ether containing 1 percent acetic acid, to obtain 1.49 g (92 percent of theory) of the title compound as a yellow syrup which solidified on standing and melted at 113°-114° C.

reactant | Sodium borohydride | 36 mmol, 1.4 g | [BH4-].[Na+]
reactant | 3-methylamino-2-methyl-4-methylsulfonylbenzoic acid | 6.30 mmol, 1.53 g | CNC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C10H13NO4S
reactant | paraformaldehyde | 60 mmol, 1.8 g | C=O | CH2O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-Dimethylamino-2-methyl-4-methylsulfonylbenzoic Acid | CN(C=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C)C | C11H15NO4S
